US06002008
4-(3-Hydroxy-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile
Using the method described in Example 105, 0.7 g of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile and 0.38 g of 3-aminophenol was converted to 0.83 g of the title compound: mass spectrum (electrospray, m/e,): 321.9, 322.8 (M+H)+

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 0.7 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 3-aminophenol | 0.38 g | NC=1C=C(C=CC1)O | C6H7NO
product | 4-(3-Hydroxy-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 0.83 g | OC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C18H15N3O3
